US04877780
To a solution of N-(1-azabicyclo[2.2.2]oct-3-yl)-2-cyclopropylmethoxy-4-amino-5-chlorobenzamide (3.5 g; 0.01 mol) in acetone (200 ml), iodomethane (2.8 g; 0.02 moles) was added and the resulting mixture stirred to room temperature for 20 hours. The precipitated solid was collected, washed with acetone and dried to give N-(1-azabicyclo[2.2.2]oct-3-yl)-2-cyclopropylmethoxy-4-amino-5-chlorobenzamide methyl iodide (3.9 g), m.p. 274°-276° C. (d) (after recrystallisation from a mixture of acetonitrile and water).

reactant | N-(1-azabicyclo[2.2.2]oct-3-yl)-2-cyclopropylmethoxy-4-amino-5-chlorobenzamide | 0.01 mol, 3.5 g | N12CC(C(CC1)CC2)NC(C2=C(C=C(C(=C2)Cl)N)OCC2CC2)=O | C18H24ClN3O2
reactant | iodomethane | 0.02 moles, 2.8 g | IC | CH3I
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | N-(1-azabicyclo[2.2.2]oct-3-yl)-2-cyclopropylmethoxy-4-amino-5-chlorobenzamide methyl iodide | 3.9 g | CI.N12CC(C(CC1)CC2)NC(C2=C(C=C(C(=C2)Cl)N)OCC2CC2)=O | InChI=1S/C18H24ClN3O2.CH3I/c19-14-7-13(17(8-15(14)20)24-10-11-1-2-11)18(23)21-16-9-22-5-3-12(16)4-6-22;1-2/h7-8,11-12,16H,1-6,9-10,20H2,(H,21,23);1H3
